* C:\Users\Ward\Dropbox\Work\Revolution\RPDG_Hardware\RL0021\0-10_Out.asc
XU1 N003 N001 V+ 0 N002 OP284
R1 N001 0 10k
R2 Vout N001 22k
V1 N003 0 0
V2 V+ 0 24
I1 Vout 0 -1
D1 N002 Vout D
Q1 0 N002 Vout 0 2N3906
.model D D
.lib C:\Users\Ward\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Ward\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 100m
.lib ADI1.lib
.backanno
.end
